US04874747
Into a round bottom flask there are introduced 10.8 g (100 mmoles) of ortho cresol, 100 ml of dichloromethane (CH2Cl2) and 18.3 g (100 mmoles) of 2,4-dichloro-2,4-dimethylhexane. The reaction mixture is cooled to 5° C. and there are added, in small quantities, 6.6 g (50 mmoles) of aluminum chloride. The temperature is permitted to rise to 20° C. The reaction mixture is stirred for 2 hours and it is then poured into 200 ml of water. The organic phase is decanted, dried on magnesium sulfate (MgSO4) and the solvents are evaporated. The residue is recrystallized in 100 ml of hexane, yielding 20.3 g (93%) of 3-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthol which melts at 122-123° C.

reactant | ortho cresol | 100 mmoles, 10.8 g | C1(=CC=CC=C1O)C | C7H8O
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | 2,4-dichloro-2,4-dimethylhexane | 100 mmoles, 18.3 g | ClC(C)(CC(CC)(C)Cl)C | C8H16Cl2
reactant | aluminum chloride | 50 mmoles, 6.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | 200 ml | O | H2O
product | 3-methyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthol | 20.3 g, 93% | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C15H22O
